US07625926B2
Step 1: Preparation of 1-(2-bromo-ethylsulfanyl)-4-nitro-benzene
6.94 ml of 1,2-dibromoethane was diluted with 100 ml of acetonitrile, mixed with 11.2 g of potassium carbonate and 5.0 g of 4-nitro-benzenethiol, and stirred at 80° C. for 18 hours. After washing with 300 ml of distilled water and with 300 ml of aqueous NaCl, the resulting organic layer was dried over magnesium sulfate, filtrated, and distilled under a reduced pressure. The residue obtained thus was subjected to column chromatography to obtain 6.9 g of the title compound (yield 82%).

reactant | 1,2-dibromoethane | 6.94 ml | BrCCBr | C2H4Br2
reactant | potassium carbonate | 11.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-nitro-benzenethiol | 5.0 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-(2-bromo-ethylsulfanyl)-4-nitro-benzene | 6.9 g, yield 82% | BrCCSC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO2S
